* TL072 Dual Op-Amp Subcircuit for ngspice
.include TL071.lib
.subckt TL072 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+
XU1A 1in+ 1in- vcc+ vcc- 1out TL071
XU1B 2in+ 2in- vcc+ vcc- 2out TL071
.ends
